*N1 out in 0 0 ekvn_va W={W1} L={L1}
N1 out in 0 0 ekvn_va W={W1} L={L1} AD={AD1} PD={PD1}
N2 1 1 0 0 ekvn_va W={W1} L={L1}
CL out 0 {CL}
Ib1 VDD out {Ib}
Ib2 VDD 1 {Ib}
VDD VDD 0 {VDD}
Vin 2 in AC=1
Eb 2 0 1 0 1