* Delay approximation

Vin in 0 DC=0 AC=1

A1 in out1 delay1
.model delay1 s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{-DT} 2]
+ den_coeff = [{+DT} 2] )

A2 in out2 delay2
.model delay2 s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{DT^2} {-6*DT} 12]
+ den_coeff = [{DT^2} {+6*DT} 12] )

A3 in out3 delay3
.model delay3 s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{-DT^3} {12*DT^2} {-60*DT} 120]
+ den_coeff = [{DT^3} {12*DT^2} {60*DT} 120] )

A4 in out4 delay4
.model delay4 s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{DT^4} {-20*DT^3} {180*DT^2} {-840*DT} 1680]
+ den_coeff = [{DT^4} {20*DT^3} {180*DT^2} {840*DT} 1680] )

A5 in out5 delay5
.model delay5 s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{-DT^5} {30*DT^4} {-420*DT^3} {3360*DT^2} {-15120*DT} 30240]
+ den_coeff = [{DT^5} {30*DT^4} {420*DT^3} {3360*DT^2} {15120*DT} 30240] )
